US06194574B1
B. 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido[4,5-b]indolizine
A solution of 4-hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido-[4,5-b]indolizine (120 mg) in phosphorus oxychloride (2 mL) is heated at 100° C. for 2 hours, cooled to room temperature, and concentrated in vacuo. The residue is partitioned into ice water and dichloromethane. The aqueous phase is separated and extracted twice with dichloromethane. The combined organic extracts are washed with a saturated sodium bicarbonate solution and subsequently dried (Na2SO4), filtered, and concentrated in vacuo. The resulting dark residue is chromatographed on silica gel (10% to 20% ethyl acetate in hexane) to give 54 mg of the title compound as a greenish yellow foam: 1H nmr (400 MHz, CDCl3) d 1.99 (s, 6 H), 2.38 (s, 3 H), 2.79 (s, 3 H), 6.80 (m, 1 H), 7.00 (s, 2 H), 7.19 (m, 2 H), 9.27 (d, 1 H).

reactant | 4-hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido-[4,5-b]indolizine | 120 mg | OC1=NC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C20H19N3O
reactant | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido[4,5-b]indolizine | 54 mg | ClC1=NC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C20H18ClN3
